US04341718
α-Hydroxy-β-(3-Methylphenoxy)-N-(1-Methyethyl)Benzenepropanamide
This compound was prepared as in Example 12 from N-(1-methylethyl)-3-phenyl-2-oxiranecarboxamide (6.16 g.), m-cresol (3.3 g.), sodium hydride (50% oil dispersion, 1.5 g.), 18-crown-6 (0.9 g.), and acetonitrile (250 ml.). The product which was recrystallized from ether melted at 158°-159°, and weighed 3.2 g.

reactant | N-(1-methylethyl)-3-phenyl-2-oxiranecarboxamide | 6.16 g | CC(C)NC(=O)C1OC1C1=CC=CC=C1 | C12H15NO2
reactant | m-cresol | 3.3 g | C1=C(C=CC=C1O)C | C7H8O
reactant | sodium hydride | 1.5 g | [H-].[Na+]
reactant | 18-crown-6 | 0.9 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
product | α-Hydroxy-β-(3-Methylphenoxy)-N-(1-Methyethyl)Benzenepropanamide | OC(C(=O)NC(C)C)C(C1=CC=CC=C1)OC1=CC(=CC=C1)C | C19H23NO3
